US05122615
Preparation of 3-(p-Chlorobenzoyl)-2-cyanopropionamide
To a stirred mixture of cyanoacetamide (2.5 g, 0.030 mol) and tetrahydrofuran (160 mL) is slowly added potassium tert-butoxide (3.3 g, 0.030 mol) followed by p-chlorophenacyl bromide (7.0 g, 0.030 mol). The reaction is slightly exothermic and, after a short time, TLC shows none of the p-chlorophenacyl bromide present. The reaction mixture is diluted with water and brine and extracted with ether. The ether extract is dried and concentrated in vacuo to give a red oil. Upon addition of a hexane/ethyl acetate mixture (3:1) to the oil a solid forms and is collected by filtration to give the title product as a light yellow solid (1.4 g, 20%, mp 160°-161° C.) which is identified by IR and NMR spectral analyses.

reactant | cyanoacetamide | 0.030 mol, 2.5 g | C(#N)CC(=O)N | C3H4N2O
reactant | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 0.030 mol, 3.3 g | CC(C)([O-])C.[K+]
reactant | p-chlorophenacyl bromide | 0.030 mol, 7.0 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(p-Chlorobenzoyl)-2-cyanopropionamide | 1.4 g, 20% | ClC1=CC=C(C(=O)CC(C(=O)N)C#N)C=C1 | C11H9ClN2O2
